US05470845
(1) 3-(1-Propenyl)phenol
To a suspension of (ethyl)triphenylphosphonium bromide (35 g, 94.3 mmol) in THF (95 mL) was added potassium bis (trimethylsilyl)amide (180 ml, 0.5M in toluene, 90.2 mmol) dropwise. The reaction was stirred at 0° C. for 30 min, then a solution of 3-hydroxy-benzaldehyde (5 g, 41.0 mmol) in THF (5 mL) was added dropwise. After addition the reaction was stirred at 0° C. for 1 h. Ethyl ether (200 mL) was added to dilute the reaction. The organic layer was washed with water (50 mL×2), brine (50 mL×2) and dried over magnesium sulfate. Purification was performed by flash chromatography on 600 g silica gel, loaded and eluted with 10% ethyl acetate in hexane. Pure fractions were combined and evaporated to give the title compound (5.1 g, 93%) as a colorless oil.

reactant | potassium bis (trimethylsilyl)amide | 90.2 mmol, 0.5M, 180 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-hydroxy-benzaldehyde | 41.0 mmol, 5 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | Ethyl ether | 200 mL | C(C)OCC | C4H10O
catalyst | (ethyl)triphenylphosphonium bromide | 94.3 mmol, 35 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 95 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(1-Propenyl)phenol | 5.1 g, 93% | C(=CC)C=1C=C(C=CC1)O | C9H10O
